Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Amoxicillin / Sulfa (Sulfonamides) / Effexor / Latex
 
Attending: ___
 
Chief Complaint:
fibroid uterus
 
Major Surgical or Invasive Procedure:
robot assisted laparoscopic myomectomy
 
History of Present Illness:
The patient presents for laparoscopic myomectomy as she would 
like a minimally invasive mode of surgery. She is single and not 
currently actively trying to conceive, but would like to 
maintain her future fertility as she is nulliparous.  She has no 
other specific gynecologic complaints. On review the patient's 
symptoms, she reports regular menses every 28 days with 7 to 10 
days of very heavy flow.  The amount of uterine bleeding has 
increased over the last ___ years.  She also complains of 
significant pelvic pressure and pain, bladder pressure, urinary 
frequency every 30 minutes, and constipation. She denies any 
urinary incontinence or hematuria.  She denies any other fibroid 
related symptoms. Recent pelvic ultrasound (___) reveals a 
uterus with multiple fibroids measuring 9 x 6 x 6.4 cm, with a 
dominant left fundal exophytic fibroid measuring 8 x 6 x 6 cm.  
There is a small posterior low uterine segment fibroid measuring 
1 x 0.9 x 1.2 cm. Normal endometrium measuring 2 mm, not 
distorted by fibroids. Normal ovaries bilaterally.

 
Past Medical History:
OB History:  G5, P0-0-5-0.  
- > ___ years ago, ___ trimester termination of pregnancies x2.  
- ___ years ago, spontaneous miscarriages x3, no D&C required.

GYN History:  Menarche age ___.  LMP ___, regular periods
every 28 days, 7 to 10 days of very heavy flow and severe 
uterine
cramping/dysmenorrhea.  The patient does complain of
intermenstrual cramps and discomfort/pain.  The patient does
complain of dyspareunia in the past, not currently sexually
active.  Pain with full bladder and bowel movement.  The patient
reports a history of abnormal Pap smear with cervical dysplasia
noted ___ years ago, status post cryotherapy.  The patient states
that she had a Pap smear two months ago, that is reportedly
within normal limits.  The patient has not had a mammogram
testing to date.  The patient is not currently sexually active
but has been sexually active in the past, prefers opposite sex,
uses condoms as needed for birth control.  Denies history of any
STDs other than the cervical dysplasia.

Medical Problems:
1.  Exercise-induced asthma.
2.  Depression and anxiety.
3.  Posttraumatic stress disorder (history of verbal, sexual, 
and
physical abuse and neglect, family related).  The patient is 
safe
now and status post therapy.
4.  ADHD.
5.  Sciatica, well-treated with fluoxetine.
6.  Environmental allergies
7.  History of cervical dysplasia status post cryotherapy.
8.  Non-symptomatic fibroids, undergoing current evaluation.

Past Surgical History:
1.  Greater than ___ years ago, D&C x2, TAB x2.
2.  Cryotherapy for cervical dysplasia.

Medications:
1.  Fluoxetine (for anxiety, depression, and sciatica).
2.  Strattera (for ADHD).
3.  Singulair, Pulmicort and albuterol for patient's asthma.
4.  Zyrtec for allergies.

Allergies:
1.  Sulfa medications cause anaphylaxis and rash.
2.  Amoxicillin causes anaphylaxis and rash.
3.  ? latex allergy versus just skin irritation, patient is
uncertain.  patient manifests with rash.

 
Social History:
___
Family History:
Family History:  Reports a family history of diabetes,
hypertension.  Denies a history of any cancers in her family 
such
as breast, ovarian, uterine, cervical, vaginal, or colon cancer.

 
Physical Exam:
Physical Examination:  Pleasant Caucasian female in no acute
distress.  BP 130/80, wt 152 pounds, height 5 feet 3 inches. 
HEENT: normocephalic/atraumatic, anicteric sclera
Neck: supple, full range of motion, no thyromegaly or nodules
Lymphatic: no palpable neck lymphadenopathy
Back: no CVA tenderness
Lungs: clear to auscultation bilaterally, good inspiratory 
effort
CV: regular rate and rhythm, no murmurs/rubs/gallops
Abd: +bowel sounds, soft, non-tender, non-distended, no R/G
Extremities: no clubbing/cyanosis/edema 
Pelvic:  Grossly normal external female genitalia.  On speculum
exam, there is a midline cervix with no unusual bleeding,
lesions, or discharge.  Normal-appearing vaginal vault.  On
bimanual exam, there is an enlarged 14-week size fibroid uterus
with a dominant anterior fibroid compressing on the bladder,
sizing roughly 8-10 cm.  Adnexa not palpable.  No CMT.  Mild
tenderness on deep palpation of the fibroid.

 
Pertinent Results:
___ 09:00PM URINE  MUCOUS-RARE
___ 09:00PM URINE  HYALINE-1*
___ 09:00PM URINE  RBC-14* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1 RENAL EPI-<1
___ 09:00PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
 
Brief Hospital Course:
Pt was taken to the OR and underwent robot-assisted laparoscopic 
myomectomy. Intraoperative finding included 8cm left fundal 
fibroid and 2-3cm right posterior pedunculated fibroid. Pt's 
intraoperative IV fluid was 1700cc, urine output was 60 cc, and 
estimated blood loss was 20 cc. No complication was associated 
with the surgery. Pt was recovering well in the PACU after 
surgery, however she did have urinary retention and nausea. 
Foley was placed and had 750 cc of urine output. She was 
admitted into the hospital for observation overnight with plan 
for voiding trial AM of POD#1.  On post operative day 1, pt had 
a trial of void, and was successful with ultrasound scan showing 
less than 50 cc residual urine. Given pt's improved condition, 
she was discharged home on post operative day #1.  
 

 
Medications on Admission:
1.  Fluoxetine (for anxiety, depression, and sciatica).
2.  Strattera (for ADHD).
3.  Singulair, Pulmicort and albuterol for patient's asthma.
4.  Zyrtec for allergies.

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
2. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
3. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain for 10 days.  
4. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
5. Fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
6. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic fibroid uterus

 
Discharge Condition:
Good

 
Discharge Instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks. 

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision.  No bath tubs for 6 weeks.

 
Followup Instructions:
___